US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine
A mixture of [4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid (0.150 g, 0.30 mmol), tert-butyl glycinate hydrochloride (0.0635 g, 0.38 mmol) and N-methylmorpholine (0.10 ml, 0.91 mmol) in DCM (2 ml) was stirred at room temperature. TBTU (0.128 g, 0.40 mmol) was added and the mixture was stirred overnight. Trifluoroacetic acid (4.0 ml) was added and after 2 h the solvent was removed under reduced pressure. The residue was purified by preparative HPLC on a Kromasil C8-column using 35% MeCN in 0.1M ammonium acetate buffer as eluent. The solvent was removed under reduced pressure and 0.159 g (95%) of the title product was obtained. M/z 553.02.

reactant | [4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid | 0.30 mmol, 0.150 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)O)C=C1 | C26H22FNO6S
reactant | tert-butyl glycinate hydrochloride | 0.38 mmol, 0.0635 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-methylmorpholine | 0.91 mmol, 0.10 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.40 mmol, 0.128 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Trifluoroacetic acid | 4.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.159 g, 95% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C28H25FN2O7S
